US05051511
1-Cyclohexyloxy-2,2,6,6-tetramethyl-4-chlorocarbonyloxypiperidine Hydrochloride
Following the procedure of Example 1, 1-cyclohexyloxy-2,2,6,6-tetramethyl-4-hydroxypiperidine is reacted with phosgene to form the title compound in a yield of 80%. The product melts at 174°-175° C.

reactant | 1-cyclohexyloxy-2,2,6,6-tetramethyl-4-hydroxypiperidine | C1(CCCCC1)ON1C(CC(CC1(C)C)O)(C)C | C15H29NO2
reactant | phosgene | C(=O)(Cl)Cl | CCl2O
product | 1-Cyclohexyloxy-2,2,6,6-tetramethyl-4-chlorocarbonyloxypiperidine Hydrochloride | yield of 80% | Cl.C1(CCCCC1)ON1C(CC(CC1(C)C)OC(=O)Cl)(C)C | InChI=1S/C16H28ClNO3.ClH/c1-15(2)10-13(20-14(17)19)11-16(3,4)18(15)21-12-8-6-5-7-9-12;/h12-13H,5-11H2,1-4H3;1H
